US07816405B2
129.9 g of (4S)-4-benzyl-3-[(2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionyl]-1,3-oxazolidin-2-one was dissolved in 2 L of tetrahydrofuran, to which 140 mL of 30% hydrogen peroxide solution was added. Under cooling with ice, 700 mL of 1N lithium hydroxide solution was added dropwise, followed by stirring at 0° C. for 1 hour. To the reaction mixture was added 1N hydrochloric acid (500 mL), to which a sodium sulfite aqueous solution (10%, 500 mL) was then added slowly. The mixture was poured into a separating funnel to separate a tetrahydrofuran layer, followed by making the aqueous layer at pH 2 with 1N hydrochloric acid before extraction 3 times with ethyl acetate (1 L). The organic layers were combined and washed with a saturated sodium chloride solution (1.5 L) before drying the organic layer with anhydrous magnesium sulfate, followed by distilling off the solvent under a reduced pressure to obtain 130 g of (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionic acid. This compound was dissolved in 1 L of N,N-dimethylformamide, to which 67.8 g of potassium bicarbonate and 100 mL of ethyl iodide were sequentially added under cooling with ice, followed by stirring the reaction mixture at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate, and washed sequentially with 1N hydrochloric acid and a saturated sodium chloride solution. The organic layer was dried with anhydrous magnesium sulfate, followed by distilling off the solvent under a reduced pressure. The residue was purified using silica gel column chromatography to obtain 61.8 g of the title compound in the form of colorless oily matter from a hexane-ethyl acetate (3:1)-eluted fraction.

reactant | (4S)-4-benzyl-3-[(2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionyl]-1,3-oxazolidin-2-one | 129.9 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC(=CC=C1)O)OC(C)C)=O | C22H25NO5
reactant | lithium hydroxide | 1N, 700 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N, 500 mL | Cl | ClH
reactant | sodium sulfite | 500 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
solvent | hydrogen peroxide | 140 mL | OO | H2O2
product | (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionic acid | 130 g | OC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | C12H16O4
